US06096736
A suspension of 5-methoxycarbonylmethyl-1-(4-amino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (50 g), n-iodopropane (130 ml) and sodium carbonate (185 g) in dimethylformamide (1.0 liter) is stirred overnight at 60° C. To the mixture is added ethyl acetate, and the mixture is washed with water, dried, concentrated, and purified by silica gel column chromatography (solvent; dichloromethane:methanol=50:1) to give 5-methoxycarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (30 g) as a white powder.

reactant | 5-methoxycarbonylmethyl-1-(4-amino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 50 g | COC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)N)Cl)=O | C20H21ClN2O3
reactant | sodium carbonate | 185 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.0 liter | CN(C=O)C | C3H7NO
product | 5-methoxycarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 30 g | COC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)NCCC)Cl)=O | C23H27ClN2O3
